US09227982B2
Intermediate 9: 2-((2-(tert-Butyldimethylsilyloxy)ethylamino)methyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one
To a mixture of 2-(aminomethyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one (50 mg, 0.28 mmol) and 2-(tert-butyldimethylsilyloxy)acetaldehyde (53 uL, 0.28 mmol) in DMF (1 mL) was added siliabond cyanoborohydride (300 mg, 0.30 mmol, 1 mmol/g) and acetic acid (0.158 mL, 2.8 mmol). The mixture was heated via microwave at 150° C. for 5 minutes, concentrated in vacuo and the resulting material was purified via HPLC to provide the title compound (10 mg, 11% yield). 1H NMR (400 MHz, CDCl3) δ 4.51 (s, 2 H), 3.87 (t, J=5.5 Hz, 2H), 3.71 (s, 2H), 3.58-3.68 (m, 2H), 2.62 (ddd, J=14.7, 5.3, 5.1 Hz, 4H), 0.82 (s, 9H), 0.00 (s, 6H). Retention time=1.52 min.

reactant | 2-(aminomethyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one | 0.28 mmol, 50 mg | NCC=1NC(C2=C(N1)CCOC2)=O | C8H11N3O2
reactant | 2-(tert-butyldimethylsilyloxy)acetaldehyde | 0.28 mmol, 53 uL | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | cyanoborohydride | 0.30 mmol, 300 mg | C(#N)[BH3-]
reactant | acetic acid | 2.8 mmol, 0.158 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-((2-(tert-Butyldimethylsilyloxy)ethylamino)methyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one | 10 mg, 11% yield | [Si](C)(C)(C(C)(C)C)OCCNCC=1NC(C2=C(N1)CCOC2)=O | C16H29N3O3Si
